US06891044B2
A 1M solution of KOH (1.0 g, 17.8 mmol) in 1:1 water/MeOH (18 mL total) was prepared under argon and was degassed by vacuum/purge cycles with argon (5 times). In a separate flask, 3-[2-(3,4-dimethoxy-phenyl)-vinyl]-6-(3-methoxy, methoxymethoxy-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole (289 mg, 0.461 mmol, 1.0 equiv) was dissolved in THF (8 mL) under argon. To this solution was added the above 1M KOH solution (10 mL, 1:1 water/MeOH). The reaction was warmed to 30° C. and was allowed to stir for 7 h. The reaction mix was neutralized by the addition of 20% citric acid (7 mL). The resulting mix was partitioned between ethyl acetate (150 mL) and water (100 mL). The organic material was separated, dried over sodium sulfate, decanted, and concentrated under reduced pressure to give cis and trans 3-[2-(3,4-dimethoxy-phenyl)-vinyl]-6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole (used crude): Rf sm 0.46, p1 0.17, p2 0.23 (ethyl acetate-hexane 1:1); 1H NMR cis isomer (CDCl3) δ 7.55 (s, 1H), 7.3-7.1 (m, 6H), 7.02 (dd, 1H, J=1.9, 8.3 Hz), 6.85 (d, 1H, J=12.5 Hz), 6.78 (d, 1H, J=12.5 Hz), 6.74 (d, 1H, J=8.3 Hz), 5.21 (s, 2H), 3.88 (s, 3H), 3.70 (s, 3H), 3.43 (s, 3H), 3.42 (s, 3H). MS (ES) [m+H]/z Calc'd 447, found 447, [m−H]/z Calc'd 445, found 445.

reactant | KOH | 17.8 mmol, 1.0 g | [OH-].[K+]
reactant | water MeOH | 18 mL | O.CO
reactant | 3-[2-(3,4-dimethoxy-phenyl)-vinyl]-6-(3-methoxy, methoxymethoxy-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole | 0.461 mmol, 289 mg, 1.0 equiv | COC=1C=C(C=CC1OC)C=CC1=NN(C2=CC(=CC=C12)C1=C(C(=CC=C1)OC)OCOC)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C35H36N2O7S
reactant | KOH | above 1M, 10 mL | [OH-].[K+]
reactant | citric acid | 7 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | THF | 8 mL | C1CCOC1 | C4H8O
product | trans 3-[2-(3,4-dimethoxy-phenyl)-vinyl]-6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole | COC=1C=C(C=CC1OC)/C=C/C1=NNC2=CC(=CC=C12)C1=CC(=C(C=C1)OCOC)OC | C26H26N2O5
